US05514815
To a suspension of 63.2% sodium hydride (0.38 g) in dimethylformamide (10 ml) is added dropwise a solution of (3E,4E)-3-benzylidene-4-(3,4,5-trimethoxybenzylidene)-2,5-pyrrolidinedione (3.65 g) in dimethylformamide (10 ml) under ice-cooling, and the mixture is stirred at room temperature for one hour. To the mixture is added dropwise methoxymethyl chloride (0.84 ml) under ice-cooling, and the mixture is stirred at room temperature overnight. The mixture is evaporated to remove the solvent, and to the residue is added ethyl acetate. The mixture is washed, dried, and evaporated to remove the solvent. The resulting residue is purified by silica gel column chromatography (solvent; n-hexane:trichloromethane:ethyl acetate=5:5:4) to give (3E,4E)-1-methoxymethyl-3-benzylidene-4-(3,4,5-trimethoxybenzylidene)-2,5-pyrrolidinedione (3.0 g) as yellow crystals.

reactant | sodium hydride | 0.38 g | [H-].[Na+]
reactant | (3E,4E)-3-benzylidene-4-(3,4,5-trimethoxybenzylidene)-2,5-pyrrolidinedione | 3.65 g | C(/C1=CC=CC=C1)=C/1\C(NC(\C1=C\C1=CC(=C(C(=C1)OC)OC)OC)=O)=O | C21H19NO5
reactant | methoxymethyl chloride | 0.84 ml | COCCl | C2H5ClO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (3E,4E)-1-methoxymethyl-3-benzylidene-4-(3,4,5-trimethoxybenzylidene)-2,5-pyrrolidinedione | 3.0 g, Yield: 73% | COCN1C(\C(\C(\C1=O)=C/C1=CC(=C(C(=C1)OC)OC)OC)=C\C1=CC=CC=C1)=O | C23H23NO6
